US07517873B2
To a mixture of 0.056 g (0.0002 mole) of (rac)-2-chloro-9-cyclopentyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one, 0.5 mL of N,N-dimethylacetamide and 0.018 mL (0.0003 mole) of iodomethane was added 0.012 g (0.0003 mole) of 60% sodium hydride in oil at 0 degrees. The mixture was stirred at ambient temperature for 1 hour, then 10 mL of water was added. The precipitate collected by filtration to give 0.049 g of (rac)-2-chloro-9-cyclopentyl-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-1) as an yellow solid.

reactant | (rac)-2-chloro-9-cyclopentyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0002 mole, 0.056 g | ClC=1N=CC2=C(N(CC(C(N2)=O)C)C2CCCC2)N1 | C13H17ClN4O
reactant | N,N-dimethylacetamide | 0.5 mL | CN(C(C)=O)C | C4H9NO
reactant | iodomethane | 0.0003 mole, 0.018 mL | IC | CH3I
reactant | sodium hydride | 0.0003 mole, 0.012 g | [H-].[Na+]
solvent | water | 10 mL | O | H2O
product | (rac)-2-chloro-9-cyclopentyl-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.049 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)C)C2CCCC2)N1 | C14H19ClN4O
